US08183385B2
TMSCl (132 g, 1.21 mol, 2.0 equiv) was added over 5 minutes to a slurry of 4-amino-2,3-difluoro-5-nitrobenzoic acid (132.3 g, 0.607 mol, 1 equiv.) in 325 mL of MeOH. The mixture was heated at reflux for 15 hours. When the reaction was complete as determined by HPLC, the mixture was cooled in an ice-water bath for 45 minutes. The reaction mixture was then filtered and the cake was washed with 65 mL of MeOH. The wet cake was dried overnight at 55° C. under high vacuum to give 128.8 g (92%) of 4-amino-2,3-difluoro-5-nitrobenzoic acid methyl ester. HPLC was 97.9a % (220 nm) and 99.2a % (254 nm). 1H NMR (400 MHz, DMSO-d6) δ 3.84 (3H, s, OMe), 8.1 (2H, br s, NH2), 8.43 (1H, apparent dd, J 1.9, 7.2, Ar—H). 19F NMR (376 MHz, D6 DMSO) δ −153.6, −129.2. 13C NMR (100 MHz, DMSO-d6) δ 52 (CH3O), 105 (C, d, J 10), 125 (CH, t, J 2.7), 128 (CH, d, J 5), 140 (C—F, dd, J 244, 15), 141 (C, dd, J 14, 5), 152 (C—F, dd, J 263, 11), 162 (COO, t, J 3). IR νmax/cm−1 3433, 3322, 1699, 1637, 1548, 1342, 1234. MS APCI (−) m/z 231 (M−1) detected.

reactant | TMSCl | 1.21 mol, 132 g, 2.0 equiv | C[Si](C)(C)Cl | C3H9ClSi
reactant | 4-amino-2,3-difluoro-5-nitrobenzoic acid | 0.607 mol, 132.3 g, 1 equiv. | NC1=C(C(=C(C(=O)O)C=C1[N+](=O)[O-])F)F | C7H4F2N2O4
solvent | MeOH | 325 mL | CO | CH4O
product | 4-amino-2,3-difluoro-5-nitrobenzoic acid methyl ester | 128.8 g, 92% | COC(C1=C(C(=C(C(=C1)[N+](=O)[O-])N)F)F)=O | C8H6F2N2O4
